US08071595B2
To a room temperature, stirred solution of 2,3-dibromo-N-methylmaleimide (1 g, 0.004 mol) in DMF (10 mL) was added Cs2CO3 (1.34 g, 0.004 mol) followed by morpholine (360 mg, 0.004 mol) under N2 atmosphere. The reaction mixture was then stirred for 30 minutes, quenched with ice water, and extracted with EtOAc (2×50 mL). The combined organic layers were washed with water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford 3-bromo-1-methyl-4-morpholino-1H-pyrrole-2,5-dione (0.87 g, 85%) as a solid.

reactant | 2,3-dibromo-N-methylmaleimide | 0.004 mol, 1 g | BrC=1C(=O)N(C(C1Br)=O)C | C5H3Br2NO2
reactant | Cs2CO3 | 0.004 mol, 1.34 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | morpholine | 0.004 mol, 360 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-bromo-1-methyl-4-morpholino-1H-pyrrole-2,5-dione | 0.87 g, 85% | BrC=1C(N(C(C1N1CCOCC1)=O)C)=O | C9H11BrN2O3
